US04628057
(3S)-2-[(2-Thenylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as descsribed in Example 32, (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (4.33 g), KOH (2.33 g), carbon disulfide (1.22 ml), 50% ethanol (80 ml) and 2-thenyl chloride (3.1 g) are reacted and treated to give the title compound (3.15 g) as pale yellow powder.

reactant | (3S)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 4.33 g | C1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | KOH | 2.33 g | [OH-].[K+]
reactant | carbon disulfide | 1.22 ml | C(=S)=S | CS2
reactant | 2-thenyl chloride | 3.1 g | C1(=CC=CS1)CCl | C5H5ClS
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | (3S)-2-[(2-Thenylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 3.15 g | C1(=CC=CS1)CSC(=S)N1CC=2NC3=CC=CC=C3C2C[C@H]1C(=O)O | C18H16N2O2S3
